US06894050B2
Preparation 3-(3,4,5,6-Tetrahydro-2H-[1,2′]bipyrazinyl-6′-yloxymethyl-benzonitrile (3-E)
A mixture of 3-(6-chloro-pyrazin-2-yloxymethyl)-benzonitrile I-3f (667.2 mg, 2.716 mmol), piperazine (297 mg, 3.531 mmol), sodium t-butoxide (287 mg, 2.987 mmol), BINAP (67.7 mg, 0.109 mmol), and Pd2(dba)3 (49.7 mg, 0.054 mmol) in toluene (10 mL) was heated at 90° C. overnight. The solution was cooled to room temperature and filtered through a celite pad. The celite pad was washed with ethyl acetate several times. The combined filtrate was concentrated in vacuo to give the crude title compound. The product was purified by chromatography (silica, 10% MeOH/dichlormethane with 1% NH4OH) to give 180 mg 3-(3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-6′-yloxymethyl)-benzonitrile (3-E).

reactant | 3-(6-chloro-pyrazin-2-yloxymethyl)-benzonitrile | 2.716 mmol, 667.2 mg | ClC1=CN=CC(=N1)OCC=1C=C(C#N)C=CC1 | C12H8ClN3O
reactant | piperazine | 3.531 mmol, 297 mg | N1CCNCC1 | C4H10N2
reactant | sodium t-butoxide | 2.987 mmol, 287 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.109 mmol, 67.7 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.054 mmol, 49.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-6′-yloxymethyl)-benzonitrile | 180 mg | N1(CCNCC1)C1=NC(=CN=C1)OCC=1C=C(C#N)C=CC1 | C16H17N5O
